US05338740
F. Trifluoromethanesulfonic acid 1-(2-ethyl-5,7-dimethyl-imidazo[4,5-b]pyridin -3-yl)-indan-5-yl ester
To a solution of 1-(2-ethyl-5,7-dimethyl-imidazo[4,5-b]pyridin-3-yl)-indan-5-ol (720 mg, 2.33 mmol)in CH2Cl2 (5 mL) at -78° C. were added pyridine (237 mg, 0.24 mL, 3 mmol) and triflic anhydride (818 mg, 0.48 mL, 2.9 mmol). The reaction mixture was stirred at -78° C. for 0.5 hour and at 0° C. for 1 hour and was quenched with saturated aqueous NaHCO3 (5 mL). The organic layer was separated and washed with saturated aqueous NaCl (5 mL), dried MgSO4) and concentrated in vacuo. 1H NMR (250 MHz, CDCl3): d 7.06 (dd, 1 H), 6.95 (d,s 2 H), 6.87 (s, 1 H), 6.46 (1H, m), 3.48 (m, 1 H), 3.12 (q, 2 H), 2.85 (m, 2 H), 2.65 (m, 1 H), 2.61 (s, 3 H), 2.50 (s, 3 H), 1.28 (t, 3 H).

reactant | 1-(2-ethyl-5,7-dimethyl-imidazo[4,5-b]pyridin-3-yl)-indan-5-ol | 2.33 mmol, 720 mg | C(C)C1=NC=2C(=NC(=CC2C)C)N1C1CCC2=CC(=CC=C12)O | C19H21N3O
reactant | pyridine | 3 mmol, 0.24 mL, 237 mg | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 2.9 mmol, 0.48 mL, 818 mg | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 1-(2-ethyl-5,7-dimethyl-imidazo[4,5-b]pyridin -3-yl)-indan-5-yl ester | C(C)C1=NC=2C(=NC(=CC2C)C)N1C1CCC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C20H20F3N3O3S
